US06462040B1
3-(Cis-2-t-butoxycarbonylaminocyclopropyl)pyrrolidine (Isomer A)
To 15 ml of an ethanol solution of 547.3 mg (1.52 mmol) of 1-benzyloxycarbonyl-3-(cis-2-t-butoxycarbonylaminocyclopropyl)pyrrolidine (isomer A) was added 550 mg of 5% palladium-on-carbon, followed by shaking in a hydrogen stream (4 kg/cm2) for 1.5 hours. The catalyst was removed by filtration, and the solvent was removed by evaporation under reduced pressure to give 343.6 mg (quantitative) of the title compound as a brown oily substance.

reactant | 1-benzyloxycarbonyl-3-(cis-2-t-butoxycarbonylaminocyclopropyl)pyrrolidine | 1.52 mmol, 547.3 mg | C(C1=CC=CC=C1)OC(=O)N1CC(CC1)[C@H]1[C@H](C1)NC(=O)OC(C)(C)C | C20H28N2O4
reactant | hydrogen | [H][H] | H2
catalyst | palladium-on-carbon | 550 mg | [Pd] | Pd
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 3-(Cis-2-t-butoxycarbonylaminocyclopropyl)pyrrolidine | C(C)(C)(C)OC(=O)N[C@@H]1[C@@H](C1)C1CNCC1 | C12H22N2O2
